US08623889B2
Step 2: N-(5-(1,4-dihydroxybutan-2-yl)-7-(5-fluoro-2-methylphenyl)-2,6-naphthyridin-3-yl)cyclopropanecarboxamide
To a solution of N-(7-(5-fluoro-2-methylphenyl)-5-(5-hydroxytetrahydrofuran-3-yl)-2,6-naphthyridin-3-yl)cyclopropanecarboxamide (45 mg, 0.11 mmol) in tetrahydrofuran (1 mL) cooled at 0° C. was added sodium tetrahydroborate (8.4 mg, 0.22 mmol), and the reaction mixture was stirred at this temperature for 1 hour. The reaction mixture was diluted with ethyl acetate (50 mL) and washed with water (100 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was used in the next step without further purification.

reactant | N-(7-(5-fluoro-2-methylphenyl)-5-(5-hydroxytetrahydrofuran-3-yl)-2,6-naphthyridin-3-yl)cyclopropanecarboxamide | 0.11 mmol, 45 mg | FC=1C=CC(=C(C1)C1=NC(=C2C=C(N=CC2=C1)NC(=O)C1CC1)C1COC(C1)O)C | C23H22FN3O3
reactant | sodium tetrahydroborate | 0.22 mmol, 8.4 mg | [BH4-].[Na+]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | N-(5-(1,4-dihydroxybutan-2-yl)-7-(5-fluoro-2-methylphenyl)-2,6-naphthyridin-3-yl)cyclopropanecarboxamide | OCC(CCO)C1=C2C=C(N=CC2=CC(=N1)C1=C(C=CC(=C1)F)C)NC(=O)C1CC1 | C23H24FN3O3
